US04594092
Preparation of 1-benzyl-1-methyl-3-nitroguanidine
N-Methylbenzylamine (9.89 g, 0.082 mol) is added dropwise to a suspension of MNNG (10.0 g, 0.068 mol) in aqueoos ethanol (1:1 ethanol:water, v/v) at 25° C. A gradual exotherm to 44° C. occurs over the next 15 minutes. After stirring for 42 hours at ambient temperature, the white slurry is filtered. The resultant white solid (7.13 g) is recrystallized from hexanes:ethanol to afford pure product (white crystals, 6.06 g, 43.0%, melting point 103° C.-107° C.).

reactant | N-Methylbenzylamine | 0.082 mol, 9.89 g | CNCC1=CC=CC=C1 | C8H11N
reactant | MNNG | 0.068 mol, 10.0 g | CN(/C(=N/[N+](=O)[O-])/N)N=O | C2H5N5O3
reactant | ethanol | C(C)O | C2H6O
product | 1-benzyl-1-methyl-3-nitroguanidine | C(C1=CC=CC=C1)N(C(=N)N[N+](=O)[O-])C | C9H12N4O2
